US08937073B2
3a) tert-butyl (5-bromo-3-fluoro-pyridin-2-ylmethyl)-carbamate
A solution of 2-aminomethyl-3-fluoro-5-bromopyridine (185 mg, 0.77 mmol) in 8 mL dichloromethane was combined with 0.32 mL triethylamine and di-tert-butyl-dicarbonate (167.2 mg, 0.77 mmol) while cooling with an ice bath and then stirred overnight at ambient temperature. After standard working up of the reaction mixture the product was obtained in a yield of 72% of theory.

reactant | 2-aminomethyl-3-fluoro-5-bromopyridine | 0.77 mmol, 185 mg | NCC1=NC=C(C=C1F)Br | C6H6BrFN2
reactant | triethylamine | 0.32 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 0.77 mmol, 167.2 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | tert-butyl (5-bromo-3-fluoro-pyridin-2-ylmethyl)-carbamate | yield of 72% | BrC=1C=C(C(=NC1)CNC(OC(C)(C)C)=O)F | C11H14BrFN2O2
